US05270304
6.0 g of 6-chloro-2-iodo-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine was added to 60 ml of methanol/ammonia (saturated at 0° C.) to cause reaction at a temperature of 60° C. for 17 hours in a sealed tube. The reaction solution was cooled, then degassed, and concentrated under reduced pressure. Crystallization of the residue from water afforded 3.94 g of 2-iodoadenosine (90% yield).

reactant | 6-chloro-2-iodo-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine | 6.0 g | ClC1=C2N=CN(C2=NC(=N1)I)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H16ClIN4O7
reactant | methanol ammonia | 60 ml | CO.N
product | 2-iodoadenosine | 3.94 g, 90% yield | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
